US07329662B2
7-Difluoromethyl-5-(4-methoxy-phenyl)-3-pyridin-4-yl-pyrazolo[1,5-a]pyrimidine
Reaction of 4,4-difluoro-1-(4-methoxy-phenyl)-butane-1,3-dione (114 mg, 0.5 mmol), prepared from commercially available 4-methoxy-acetophenone according to general procedure A, and 3-amino-4-(4-pyridinyl)-pyrazole [CAS No. 216661-87-9; prepared from 4-cyanomethyl-pyridine as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (80 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (120 mg, 68%). MS (ISP) 353.2 [(M+H)+]; mp 206° C.

reactant | 4,4-difluoro-1-(4-methoxy-phenyl)-butane-1,3-dione | 0.5 mmol, 114 mg | FC(C(CC(=O)C1=CC=C(C=C1)OC)=O)F | C11H10F2O3
reactant | 3-amino-4-(4-pyridinyl)-pyrazole | 0.5 mmol, 80 mg | NC1=NNC=C1C1=CC=NC=C1 | C8H8N4
product | 7-Difluoromethyl-5-(4-methoxy-phenyl)-3-pyridin-4-yl-pyrazolo[1,5-a]pyrimidine | 120 mg, 68% | FC(C1=CC(=NC=2N1N=CC2C2=CC=NC=C2)C2=CC=C(C=C2)OC)F | C19H14F2N4O
